US07645789B2
(6-Fluoro-benzo[1,3]dioxol-5-yl)-methanol (650 mg, 3.8 mmol) was added to SOCl2 (20 mL) in portions at 0° C. The mixture was warmed to room temperature for 1 h and then heated at reflux for 1 h. The excess SOCl2 was evaporated under reduced pressure to give the crude product, which was basified with sat. NaHCO3 solution to pH ˜7. The aqueous phase was extracted with EtOAc (50 mL×3). The combined organic layers were dried over Na2SO4 and evaporated under reduced pressure to give 5-chloromethyl-6-fluoro-benzo[1,3]dioxole (640 mg, 90%), which was directly used in the next step.

reactant | (6-Fluoro-benzo[1,3]dioxol-5-yl)-methanol | 3.8 mmol, 650 mg | FC=1C(=CC2=C(OCO2)C1)CO | C8H7FO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | SOCl2 | 20 mL | O=S(Cl)Cl | Cl2OS
product | 5-chloromethyl-6-fluoro-benzo[1,3]dioxole | 640 mg, 90% | ClCC1=CC2=C(OCO2)C=C1F | C8H6ClFO2
